US07087601B2
To 2-(3-{[tert-butyl-(dimethyl)silyl]oxy}-4-methylphenyl)-1,3-benzoxazole (1.46 g, 4.3 mmol) in CCl4 (50 mL) was added NBS (770 mg, 4.3 mmol) and benzoyl peroxide (50 mg). The reaction mixture was refluxed for 6 h, cooled to rt, and CCl4 was removed in vacuo. The residue was dissolved in EtOAc (50 mL), washed with H2O (50 mL), dried (MgSO4), filtered and concentrated in vacuo to afford 2-(3-{[tert-butyl-(dimethyl)silyl]oxy}-4-bromomethylphenyl)-1,3-benzoxazole as light yellow solid.

reactant | 2-(3-{[tert-butyl-(dimethyl)silyl]oxy}-4-methylphenyl)-1,3-benzoxazole | 4.3 mmol, 1.46 g | C(C)(C)(C)[Si](OC=1C=C(C=CC1C)C=1OC2=C(N1)C=CC=C2)(C)C | C20H25NO2Si
reactant | NBS | 4.3 mmol, 770 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 50 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(3-{[tert-butyl-(dimethyl)silyl]oxy}-4-bromomethylphenyl)-1,3-benzoxazole | C(C)(C)(C)[Si](OC=1C=C(C=CC1CBr)C=1OC2=C(N1)C=CC=C2)(C)C | C20H24BrNO2Si
